US07582644B2
i) 6-Amino-2-[(3,4-difluorobenzyl)thio]pyrimidin-4-ol
The subtitle compound was prepared according to the procedure of Example 1 step i) treating 4-amino-6-hydroxy-2-mercaptopyrimidine monohydrate (2.0 g) with 3,4-difluorobenzyl bromide (2.66 g) to afford the subtitle compound as a white solid. Yield: 3.35 g.

reactant | 4-amino-6-hydroxy-2-mercaptopyrimidine monohydrate | 2.0 g | O.NC1=NC(=NC(=C1)O)S
reactant | 3,4-difluorobenzyl bromide | 2.66 g | FC=1C=C(CBr)C=CC1F | C7H5BrF2
product | 6-Amino-2-[(3,4-difluorobenzyl)thio]pyrimidin-4-ol | NC1=CC(=NC(=N1)SCC1=CC(=C(C=C1)F)F)O | C11H9F2N3OS
